US07538112B2
A mixture of 1,5-dimethylpyrazin-2(1H)-one (5.7 g, 45.9 mmol) and platinum oxide (0.57 g) in ethyl acetate (100 mL) was stirred under an atmosphere of hydrogen (1 atm) at room temperature overnight. The product mixture was filtered through a pad of Celite, and concentrated under vacuum to provide 1,5-dimethyl-piperazin-2-one.

reactant | 1,5-dimethylpyrazin-2(1H)-one | 45.9 mmol, 5.7 g | CN1C(C=NC(=C1)C)=O | C6H8N2O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | platinum oxide | 0.57 g | [Pt]=O
product | 1,5-dimethyl-piperazin-2-one | CN1C(CNC(C1)C)=O | C6H12N2O
